US04477466
4-[(2-Sulfamoyl-5-thienyl)sulfonyl]phenyl 1-acetylpiperidine-4-carboxylate
A solution of 5-[(4-hydroxyphenyl)sulfonyl]thiophene-2-sulfonamide (3.19 g; 0.01 mole) in acetone (60 ml) at -15° was treated with triethylamine (1.11 g; 0.011 mole). Then 1-acetylpiperidine-4-carbonyl chloride hydrochloride (2.41 g; 0.011 mole) was added, portionwise, during 15 minutes at -15°. The cooling bath was removed and stirring was continued. After 20 hours at room temperature, the reaction mixture was treated with triethylamine (1.11 g; 0.011 mole). Then after stirring one hour longer, the reaction mixture was treated with 1-acetylpiperidine-4-carbonyl chloride hydrochloride (2.41 g; 0.011 mole) and triethylamine (2.22 g; 0.022 mole) and stirred at room temperature.

reactant | 5-[(4-hydroxyphenyl)sulfonyl]thiophene-2-sulfonamide | 0.01 mole, 3.19 g | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C10H9NO5S3
reactant | triethylamine | 0.011 mole, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | 1-acetylpiperidine-4-carbonyl chloride hydrochloride | 0.011 mole, 2.41 g | Cl.C(C)(=O)N1CCC(CC1)C(=O)Cl
reactant | triethylamine | 0.011 mole, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | 1-acetylpiperidine-4-carbonyl chloride hydrochloride | 0.011 mole, 2.41 g | Cl.C(C)(=O)N1CCC(CC1)C(=O)Cl
reactant | triethylamine | 0.022 mole, 2.22 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 4-[(2-Sulfamoyl-5-thienyl)sulfonyl]phenyl 1-acetylpiperidine-4-carboxylate | C(C)(=O)N1CCC(CC1)C(=O)OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(N)(=O)=O | C18H20N2O7S3
